*****************************************************************
* NXP BUK9Y59-60E
*
* Polarity N-Channel
* Ratings 60V/5.900000E-002OHMS/16.714420356692A
*
* Date Created Tue Feb 05 08:46:20 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y59-60E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0399004464081408 TC=0.00484506833922874,1.317506552581E-05
RBD 9 4 0.00543251927195461 TC=0.00484506833922874,1.317506552581E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 4.9e-10
RG 1 2 5.73279376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	550.13
+ -10	549.193
+ -8	547.821
+ -6	545.639
+ -5	543.809
+ -4	540.839
+ -3	532.811
+ -2	491.178
+ -1	299.088
+ -0.5	202.812
+ -0.2	142.709
+ -0.1	141.378
+ 0	115.951465
+ 0.1	96.87603
+ 0.2	96.74298
+ 0.5	86.67718
+ 1	75.90028
+ 2	62.04614
+ 3	56.76284
+ 4	54.17613
+ 5	52.48115
+ 6	51.23206
+ 8	49.38645
+ 10	47.98476
+ 12	46.78553
+ 15	45.20788
+ 16	44.71057
+ 20	42.99809
+ 25	41.18608
+ 30	39.70052
+ 40	37.43581



.MODEL MINT NMOS(Vto=2.16384635566733 Kp=3.571057e+001 Nfs=680000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=6.58745487738418e-14
+ N=1 M=0.53 VJ=0.52 Fc=0.5 Cjo=1.8975687e-10 Tt=1.1248e-08)

.ENDS

